US04013652
1,2,8,9,10,11-hexahydro-9-methyl-4H-pyrido[3',4':4,5]pyrrolo[3,2,1-jk][4,1]benzoxazepine hydrochloride
By a procedure similar to that described in Example 110, 1-amino-1,2,3,5-tetrahydro-4,1-benzoxazepine hydrochloride is reacted with 1-methyl-4-piperidone to yield the title compound, m.p. 286°-288° .

reactant | 1-amino-1,2,3,5-tetrahydro-4,1-benzoxazepine hydrochloride | Cl.NN1CCOCC2=C1C=CC=C2
reactant | 1-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
product | 1,2,8,9,10,11-hexahydro-9-methyl-4H-pyrido[3',4':4,5]pyrrolo[3,2,1-jk][4,1]benzoxazepine hydrochloride | Cl.CN1CC2=C(N3CCOCC4=C3C2=CC=C4)CC1 | InChI=1S/C15H18N2O.ClH/c1-16-6-5-14-13(9-16)12-4-2-3-11-10-18-8-7-17(14)15(11)12;/h2-4H,5-10H2,1H3;1H
